US04906634
4-[(1-Butyl-2-pyrrolidinyl)methoxy]benzenamine
In a manner similar to Preparation 44 react 1-butyl-2-[(4-nitrophenoxy)methyl]pyrrolidine with tin(II) chloride dihydrate in ethanol to obtain the title compound.

reactant | 1-butyl-2-[(4-nitrophenoxy)methyl]pyrrolidine | C(CCC)N1C(CCC1)COC1=CC=C(C=C1)[N+](=O)[O-] | C15H22N2O3
reactant | tin(II) chloride dihydrate | O.O.[Sn](Cl)Cl
solvent | ethanol | C(C)O | C2H6O
product | 4-[(1-Butyl-2-pyrrolidinyl)methoxy]benzenamine | C(CCC)N1C(CCC1)COC1=CC=C(C=C1)N | C15H24N2O
